US07618988B2
300 mg of (2R/S)-2-[5-(4-fluorophenyl)-3-pyridylmethylaminomethyl]-7-methoxychroman is treated with 25 ml hydrobromic acid (48% in water) at 130 degrees C. The obtained red solution is neutralized and worked up as described in example 1. 130 mg of (2R/S)-2-({[5-(4-fluorophenyl)-pyridin-3ylmethyl]-amino}-methyl)-chroman-7-ol hydrobromide is obtained;

reactant | (2R/S)-2-[5-(4-fluorophenyl)-3-pyridylmethylaminomethyl]-7-methoxychroman | 300 mg | FC1=CC=C(C=C1)C=1C=C(C=NC1)CNCC1OC2=CC(=CC=C2CC1)OC | C23H23FN2O2
reactant | hydrobromic acid | 25 ml | Br | BrH
product | (2R/S)-2-({[5-(4-fluorophenyl)-pyridin-3ylmethyl]-amino}-methyl)-chroman-7-ol hydrobromide | 130 mg | Br.FC1=CC=C(C=C1)C=1C=C(C=NC1)CNCC1OC2=CC(=CC=C2CC1)O | InChI=1S/C22H21FN2O2.BrH/c23-19-5-1-16(2-6-19)18-9-15(11-24-13-18)12-25-14-21-8-4-17-3-7-20(26)10-22(17)27-21;/h1-3,5-7,9-11,13,21,25-26H,4,8,12,14H2;1H
